US04608383
1. 3-Amino-2-methyl-4-hydroxymethylthiophene;
m.p. 70°-71° C. by the reduction of methyl 2-methyl-3-aminothiophene-4-carboxylate with lithium aluminum hydride in diethyl ether.

reactant | methyl 2-methyl-3-aminothiophene-4-carboxylate | CC=1SC=C(C1N)C(=O)OC | C7H9NO2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Amino-2-methyl-4-hydroxymethylthiophene | NC1=C(SC=C1CO)C | C6H9NOS
